resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.985707
R2 0 n2 0.981195
R3 0 n4 0.993712
R4 n1 n3 1.00782
R5 n1 n5 1.011247
R6 n2 n3 0.991226
R7 n2 n6 0.999732
R8 n3 n7 1.008503
R9 n4 n5 0.996088
R10 n4 n6 1.014536
R11 n5 n7 24.436016
R12 n6 n7 0.994781
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
